US04160090
N3 -dimethylamino-2,4-dinitro-6-trifluoromethyl-1,3-phenylenediamine
A 50 ml. Pyrex ampule was charged with N-dimethylamino-3-chloro-2,6-dinitro-4-trifluoromethylaniline (5.0 g.; 0.015 mole), ethanolic ammonia (8.54 g. of 6.06% w/w solution; 0.03 mole) and enough absolute ethanol to bring the liquid level to within one inch of the neck. The ampule was chilled in a bath of dry ice-acetone, sealed, heated with hot water (65°-75° C.) until the starting material was in solution, and then placed in an oven at 65° C. After heating at 65° C. for 72 hours, the ampule was opened and the reaction mixture was transferred to a flask and evaporated to dryness under vacuum. Cyclohexane (200 ml.) was added to the residue. The resultant mixture was heated under reflux for one hour, then filtered hot and allowed to cool to 40° C., at which temperature the product began to crystallize. The solution was decanted away from a small amount of solids and the product was allowed to crystallize slowly from the decantate by standing at room temperature overnight. The crystalline product was collected by filtration to obtain 2.7 g., m.p. 150°-153.5° C.

reactant | N-dimethylamino-3-chloro-2,6-dinitro-4-trifluoromethylaniline | 0.015 mole, 5.0 g | CN(NC1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-])C | C9H8ClF3N4O4
reactant | ammonia | 0.03 mole, 8.54 g | N | H3N
reactant | ethanol | C(C)O | C2H6O
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | water | O | H2O
product | dimethylamino-2,4-dinitro-6-trifluoromethyl-1,3-phenylenediamine | CN(C)NC=1C(=C(C(=CC1[N+](=O)[O-])C(F)(F)F)N)[N+](=O)[O-] | C9H10F3N5O4
